US07858623B2
In a 10 mL sealed tube under N2, were dissolved HATU (250 mg, 658 μmol), (4-aminophenyl)(7-methoxyquinolin-4-yl)methanol (123 mg, 439 μmol), 5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (143 mg, 548 mmol) and K2CO3 (182 mg, 1316 mmol) in 2 mL of DMF at rt. After 10 h, the reaction mixture was heated at 60° C. for 3 h and then diluted with dichloromethane, and treated with aqueous NaOH (1N). The aqueous phase was extracted with dichloromethane, and then the organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude mixture was purified by MPLC (ISCO, dichloromethane:MeOH 100:0 to 90:10) to afford N-(4-(hydroxy(7-methoxyquinolin-4-yl)methyl)phenyl)-5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxamide (208 mg, 90.7% yield) as an off-white solid. MS (ESI pos. ion) m/z: 523 (MH+). Calc'd exact mass for C31H30N4O4: 522. 1H NMR (400 MHz, DMSO-d6) 10.67 (s, 1H), 8.83 (d, J=4.55 Hz, 1H), 8.05 (d, J=9.35 Hz, 1H), 7.53-7.61 (m, 3H), 7.46-7.52 (m, 3H), 7.36-7.44 (m, 3H), 7.31 (d, J=8.59 Hz, 2H), 7.16 (dd, J=9.16, 2.72 Hz, 1H), 6.32 (d, J=4.42 Hz, 1H), 6.15 (d, J=4.29 Hz, 1H), 3.88 (s, 3H), 3.79 (t, J=7.20 Hz, 2H), 2.71 (s, 3H), 1.33-1.41 (m, 2H), 0.66 (t, J=7.39 Hz, 3H).

reactant | HATU | 658 μmol, 250 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (4-aminophenyl)(7-methoxyquinolin-4-yl)methanol | 439 μmol, 123 mg | NC1=CC=C(C=C1)C(O)C1=CC=NC2=CC(=CC=C12)OC | C17H16N2O2
reactant | 5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 548 mmol, 143 mg | CC1=C(C(N(N1CCC)C1=CC=CC=C1)=O)C(=O)O | C14H16N2O3
reactant | K2CO3 | 1316 mmol, 182 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-(hydroxy(7-methoxyquinolin-4-yl)methyl)phenyl)-5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 208 mg, 90.7% yield | OC(C1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)CCC)C1=CC=CC=C1)=O)C1=CC=NC2=CC(=CC=C12)OC | C31H30N4O4
